US06235731B1
3) Synthesis of tert-butyl 4-[4-(dimethoxyphosphoryl)-3-oxobutyl]piperidine-1-carboxylate
A solution of 5.443 g (15.062 mM) of tert-butyl (E)-4-[4-(dimethoxyphosphoryl)-3-oxo-1-butenyl]piperidine-1-carboxylate in 50 ml of methanol was subjected to hydrogenation using 3 g of 10% palladium-on-carbon (50% hydrous) as a catalyst at room temperature and atmospheric pressure until the starting material had been no longer detected. The catalyst was removed by filtration with the aid of celite and the catalyst was washed with methanol. The filtrate and washes were pooled and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate:1/1 to ethyl acetate) to provide the title compound.

reactant | tert-butyl (E)-4-[4-(dimethoxyphosphoryl)-3-oxo-1-butenyl]piperidine-1-carboxylate | 15.062 mM, 5.443 g | COP(=O)(OC)CC(/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H28NO6P
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 3 g | [Pd] | Pd
product | tert-butyl 4-[4-(dimethoxyphosphoryl)-3-oxobutyl]piperidine-1-carboxylate | COP(=O)(OC)CC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H30NO6P
